US07947691B2
3-Hydroxy-1-(3-phenyl-allyl)-1H-benzo[4,5]furo[3,2-d]pyrimidine-2,4-dione
Following general procedure B2 and D1, 3-(2,4-Dimethoxy-benzyloxy)-1H-benzo[4,5]furo[3,2-d]pyrimidine-2,4-dione was alkylated with trans-cinnamyl chloride and subsequently deprotected to provide the title compound as a white solid. 1H NMR (d6-DMSO, 300 MHz) δ 5.09 (s, 1H); 5.11 (s, 1H); 6.49-6.58 (m, 2H); 7.18-7.30 (m, 3H); 7.37-7.47 (m, 3H); 7.64 (dd, J=8 Hz, 1H); 7.82 (d, J=8 Hz, 1H); 8.07 (d, J=8 Hz, 1H), 10.73 (br s, 1H); Ret. time=2.66 min, m/z=333.0.

reactant | 3-(2,4-Dimethoxy-benzyloxy)-1H-benzo[4,5]furo[3,2-d]pyrimidine-2,4-dione | COC1=C(CON2C(NC3=C(C2=O)OC2=C3C=CC=C2)=O)C=CC(=C1)OC | C19H16N2O6
reactant | trans-cinnamyl chloride | C(\C=C\C1=CC=CC=C1)Cl | C9H9Cl
product | 3-Hydroxy-1-(3-phenyl-allyl)-1H-benzo[4,5]furo[3,2-d]pyrimidine-2,4-dione | ON1C(N(C2=C(C1=O)OC1=C2C=CC=C1)CC=CC1=CC=CC=C1)=O | C19H14N2O4
